US07102000B2
To a biphasic mixture of 3-bromo-4-methylaniline (50 g, 0.269 mol), 10% NaOH (270 mL) and dichloromethane (160 mL) was added dropwise over a period of 2 hours 3,3-dimethylacryloyl chloride (36 mL, 0.322 mol) in dichloromethane (95 mL). The solution was stirred at room temperature for 48 hours then diluted with water (100 mL). The aqueous layer was further extracted with dichloromethane. The organic layers were combined and washed with water and brine, dried (MgSO4), filtered and evaporated. The white solid was triturated with hexane and collected to give 70 g (97%) of 3-Methyl-but-2-enoic acid (3-bromo-4-methyl-phenyl)-amide. 1H NMR (300 MHz; CDCl3): 1.89 (s, 3 H), 2.21 (s, 3 H), 2.33 (s, 3 H), 5.68 (s, 1 H), 7.14 (d, J=8.0 Hz, 1 H), 7.17 (br s, 1 H), 7.33 (d, J=8.0 Hz, 1 H), 7.79 (s, 1 H).

reactant | 3-bromo-4-methylaniline | 0.269 mol, 50 g | BrC=1C=C(N)C=CC1C | C7H8BrN
reactant | NaOH | 270 mL | [OH-].[Na+]
reactant | 3,3-dimethylacryloyl chloride | 0.322 mol, 36 mL | CC(=CC(=O)Cl)C | C5H7ClO
solvent | dichloromethane | 95 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
product | 3-Methyl-but-2-enoic acid (3-bromo-4-methyl-phenyl)-amide | 70 g, 97% | BrC=1C=C(C=CC1C)NC(C=C(C)C)=O | C12H14BrNO
